### PR TITLE
feat(Nat): add lemma nat_card_orbit_mul_card_stabilizer_eq_card_group

### PR DESCRIPTION
**Pull request by janithamalith**
Added a lemma `nat_card_orbit_mul_card_stabilizer_eq_card_group` which is the Nat.card version of MulAction.card_orbit_mul_card_stabilizer_eq_card_group

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 1]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
       _ = card (ConjClasses G) * card G := by
              congr 1; apply card_congr'; congr; ext
              exact (Setoid.comm' _).trans isConj_iff.symm
+
+/-- Orbit-stabilizer theorem using Nat.card. -/
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
/-- Orbit-stabilizer theorem using `Nat.card`. -/
```

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 2]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
...
+theorem nat_card_orbit_mul_card_stabilizer_eq_card_group
+ (α : Type*) (β : Type*) [Group α] [MulAction α β] (b : β) [Finite α] :
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
    (α : Type*) (β : Type*) [Group α] [MulAction α β] (b : β) [Finite α] :
```
we indent by 4 spaces in the statement

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 3]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
...
+    Nat.card (MulAction.orbit α b) * Nat.card (MulAction.stabilizer α b) = Nat.card α := by
+  classical
+  have : Fintype α := Fintype.ofFinite α
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
  have : Fintype α := .ofFinite α
```
Using dot-notation can shorten your code.

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 4]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
...
+  have : Fintype (MulAction.orbit α b) := by
+    refine Set.Finite.fintype ?_
+    exact Finite.finite_mulAction_orbit b
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
  have : Fintype (MulAction.orbit α b) := (Finite.finite_mulAction_orbit b).fintype
```
Simple function applications can be stacked togeether to build one term.

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 5]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
...
+  have : Fintype (MulAction.stabilizer α b) := inferInstance
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
```
`inferInstance` shows that Lean already knows this, so it is unnecessary.

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 6]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
...
+  simp [Nat.card_eq_fintype_card]
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
  simp_rw [Nat.card_eq_fintype_card]
```
non-terminal `simp`s are not allowed because they can break if more simp lemmas are added; one should replace it with `simp_rw` or `simp only` which do not add secret new lemmas. This conversion can be done easily by changing `simp` to `simp?` which tells you which simp-lemma it uses.

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 7]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
...
+  convert MulAction.card_orbit_mul_card_stabilizer_eq_card_group α b
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
  exact MulAction.card_orbit_mul_card_stabilizer_eq_card_group α b
```
There is no need to use `convert` here since the statements are exactly the same.

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean (hunk 2 above)
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
    (α : Type*) {β : Type*} [Group α] [MulAction α β] (b : β) [Finite α] :
```
`β` does not need to be explicitly given, because the later argument `b` tells us what `β` is.

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 8]
```diff
@@ -87,3 +87,16 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
       _ = card (ConjClasses G) * card G := by
              congr 1; apply card_congr'; congr; ext
              exact (Setoid.comm' _).trans isConj_iff.symm
+
+/-- Orbit-stabilizer theorem using Nat.card. -/
+theorem nat_card_orbit_mul_card_stabilizer_eq_card_group
```
Comment (plp127) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean:92]: I would call this `card_orbit_mul_card_stabilizer` out maybe `natCard_orbit_mul_natCard_stabilizer`

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean (hunk 2 above)
Comment (plp127) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]: Do we need to assume finiteness?

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean (hunk 8 above)
Comment (plp127) [reply Mathlib/GroupTheory/GroupAction/CardCommute.lean:92]: oh I guess if `MulAction.card_orbit_mul_card_stabilizer_eq_card_group` exists then this name makes more sense (still I would suggest doing `natCard` instead of `nat_card`)

Comment (kckennylau) [reply Mathlib/GroupTheory/GroupAction/CardCommute.lean:92]: Both exist with [40 instances of `natCard`](https://loogle.lean-lang.org/?q=%22natcard%22%2C+Nat.card) and [25 instances of `nat_card`](https://loogle.lean-lang.org/?q=%22nat_card%22%2C+Nat.card)

Comment (plp127) [reply Mathlib/GroupTheory/GroupAction/CardCommute.lean:92]: I remember there was a time we renamed `prod_mk` to `prodMk` in a lot of places at I assume this would be the same

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean [hunk 9]
```diff
@@ -87,3 +87,9 @@ theorem card_comm_eq_card_conjClasses_mul_card (G : Type*) [Group G] :
       _ = card (ConjClasses G) * card G := by
              congr 1; apply card_congr'; congr; ext
              exact (Setoid.comm' _).trans isConj_iff.symm
+
+/-- Orbit-stabilizer theorem using `Nat.card`. -/
+theorem nat_card_orbit_mul_card_stabilizer_eq_card_group
+    (α : Type*) (β : Type*) [Group α] [MulAction α β] (b : β) :
```
Comment (kckennylau) [inline Mathlib/GroupTheory/GroupAction/CardCommute.lean]:
```suggestion
    (α : Type*) {β : Type*} [Group α] [MulAction α β] (b : β) :
```
`β` is known from the type of `b`.

File: Mathlib/GroupTheory/GroupAction/CardCommute.lean (hunk 8 above)
Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/CardCommute.lean:92]: Actually, I might suggest letting this lemma get `card` (relegating the previous lemma to `fintype_card`, or something), since `Nat.card` is the default `card` in the rest of the group theory library.

Also, note that we already have `MulAction.index_stabilizer`, and I'm wondering whether this lemma should be there as well, and be stated with `Set.ncard orbit` rather than `Nat.card orbit`?

Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/CardCommute.lean:92]: (It could then be proved more idiomatically by rewriting with `MulAction.index_stabilizer` and `Subgroup.index_mul_card`).
